US05753708
1-desoxy-1-(N-4-hydroxybutyroyl-N-methylamino)-D-glucitol
500 ml (565 g, 6.56 mol) of gamma-butyrolactone are placed in 2.0 l of methanol. 1.28 kg (6.56 mol) of methylglucamine are added to the solution obtained. The mixture is then refluxed for 16 hours. The solution obtained is evaporated to dryness. The colourless syrup so initially obtained crystallises into a white solid after a few days at room temperature. (Melting point 78°-79° C.)

reactant | gamma-butyrolactone | 6.56 mol, 500 ml, 565 g | C1(CCCO1)=O | C4H6O2
reactant | methylglucamine | 6.56 mol, 1.28 kg | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
solvent | methanol | 2.0 l | CO | CH4O
product | 1-desoxy-1-(N-4-hydroxybutyroyl-N-methylamino)-D-glucitol | OCCCC(=O)N(C)C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C11H23NO7
